US09334263B2
Synthesis of tert-butyl 4-(5-acetylpyrimidin-2-yl)piperazine-1-carboxylate
To a mixture of tert-butyl 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylate (5.0 g, 14.6 mmol), palladium diacetate (240 mg, 1.46 mmol) and triphenylphosphine (376 mg, 2.92 mmol) in dioxane (100 mL) was added tributyl(1-ethoxyvinyl)stannane (5.3 mL, 16.1 mL) under N2, and the reaction mixture was stirred at 80° C. overnight. The reaction was cooled to RT and diluted with THF (100 mL), followed by the addition of 2 N HCl (100 mL). The mixture was stirred at RT for 30 mins, and LCMS showed the reaction was completed. The reaction mixture was diluted with ethyl acetate (200 mL). The organic phase was separated, washed with water (3×100 mL), dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography to afford the title compound (3.0 g, 67%). MS (ES+) C15H22N4O3 requires: 306, found: 251 [M-56+H]+.

reactant | tert-butyl 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylate | 14.6 mmol, 5.0 g | BrC=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19BrN4O2
reactant | triphenylphosphine | 2.92 mmol, 376 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tributyl(1-ethoxyvinyl)stannane | 5.3 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | HCl | 2 N, 100 mL | Cl | ClH
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium diacetate | 1.46 mmol, 240 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | tert-butyl 4-(5-acetylpyrimidin-2-yl)piperazine-1-carboxylate | 3.0 g, 67% | C(C)(=O)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H22N4O3
